US05498774
A mixture of diethyl bromomalonate (26 ml) and ethyl 2-aminonicotinate (13.3 g) was allowed to react at 80°-90° C. for 6 hours under nitrogen atmosphere. After completion of the reaction, the mixture was cooled to room temperature, and acetone (100 ml) was added thereto. The precipitated crystals were collected by filtration, affording 3,8-diethoxycarbonyl-2-hydroxy-imidazo[1,2-a]pyridine hydrobromide (9.98 g, yield 34.8%).

reactant | diethyl bromomalonate | 26 ml | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | ethyl 2-aminonicotinate | 13.3 g | NC1=C(C(=O)OCC)C=CC=N1 | C8H10N2O2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,8-diethoxycarbonyl-2-hydroxy-imidazo[1,2-a]pyridine hydrobromide | 9.98 g, yield 34.8% | Br.C(C)OC(=O)C1=C(N=C2N1C=CC=C2C(=O)OCC)O | InChI=1S/C13H14N2O5.BrH/c1-3-19-12(17)8-6-5-7-15-9(13(18)20-4-2)11(16)14-10(8)15;/h5-7,16H,3-4H2,1-2H3;1H
